US06432993B1
t-Butyl N-[2-amino-5-(2,5-di-t-butyl-4-hydroxyphenoxy)phenyl]N-methylcarbamate
In a similar manner to that described in Reference Example 7, a reaction was carried out using t-butyl N-[5-(4-benzyloxy-2,5-di-t-butylphenoxy)-2-nitrophenyl]-N-methylcarbamate (7.1 g), palladium on carbon (10%, 0.7 g) and toluene/methanol/ethyl acetate=16/16/25 (57 ml) and the reaction mixture was purified to give the title compound (3.56 g).

reactant | t-butyl N-[5-(4-benzyloxy-2,5-di-t-butylphenoxy)-2-nitrophenyl]-N-methylcarbamate | 7.1 g | C(C1=CC=CC=C1)OC1=CC(=C(OC=2C=CC(=C(C2)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-])C=C1C(C)(C)C)C(C)(C)C | C33H42N2O6
catalyst | palladium on carbon | 0.7 g | [Pd] | Pd
solvent | toluene methanol ethyl acetate | C1(=CC=CC=C1)C.CO.C(C)(=O)OCC
product | t-Butyl N-[2-amino-5-(2,5-di-t-butyl-4-hydroxyphenoxy)phenyl]N-methylcarbamate | 3.56 g | NC1=C(C=C(C=C1)OC1=C(C=C(C(=C1)C(C)(C)C)O)C(C)(C)C)N(C(OC(C)(C)C)=O)C | C26H38N2O4
